US08686048B2
Intermediate 5: 3′-ethoxy-3,5-difluorobiphenyl-4-amine
The title compound (0.219 g) was prepared from 2,6-difluoro-4-bromo aniline (0.5 g, 2.4 mmol) and 3-ethoxyphenylboronic acid (0.517 g, 3.12 mmol) as a pale-yellow liquid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.30-7.24 (m, 3H), 7.14 (d, J 7.9, 1H), 7.11 (s, 1H), 6.82 (dd, J 2.1, 8.1, 1H), 5.31 (s, 2H), 4.07 (q, J 7, 2H), 1.32 (t, J 7, 3H).

reactant | 2,6-difluoro-4-bromo aniline | 2.4 mmol, 0.5 g | FC1=C(N)C(=CC(=C1)Br)F | C6H4BrF2N
reactant | 3-ethoxyphenylboronic acid | 3.12 mmol, 0.517 g | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
product | 3′-ethoxy-3,5-difluorobiphenyl-4-amine | 0.219 g | C(C)OC=1C=C(C=CC1)C1=CC(=C(C(=C1)F)N)F | C14H13F2NO
